US04203909
N-Cyano-N'-(2-propyn-1-yl)-N"-{2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethyl}guanidine (BL-5993)
A solution of N-cyano-N'-(2-propyn-1-yl)-N"-(2-mercaptoethyl)guanidine [prepared according to the procedure described in U.S. Pat. No. 4,112,234] in ethanol is reacted with an ethanol solution of about an equimolar amount of 5-dimethylaminomethylfurfuryl chloride hydrochloride and about two equivalents of base, and the title product is thereby produced.

reactant | N-cyano-N'-(2-propyn-1-yl)-N"-(2-mercaptoethyl)guanidine | C(#N)NC(=NCCS)NCC#C | C7H10N4S
reactant | 5-dimethylaminomethylfurfuryl chloride hydrochloride | Cl.CN(C)CC1=CC=C(CCl)O1
solvent | ethanol | C(C)O | C2H6O
product | N-Cyano-N'-(2-propyn-1-yl)-N"-{2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethyl}guanidine | C(#N)NC(=NCCSCC=1OC(=CC1)CN(C)C)NCC#C | C15H21N5OS
